US07973164B2
N-(3-isoxazolyl)-2-[4-(6,7-dimethoxyquinolin-4-yloxy)phenyl]acetamide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.226 g) and 2-hydroxypyridine N-oxide (0.131 g) were added in turn to a stirred mixture of 2-[4-(6,7-dimethoxyquinolin-4-yloxy)phenyl]acetic acid (0.2 g), 3-aminoisoxazole (0.064 g), diisopropylethylamine (0.226 g) and DMF (3 ml) at ambient temperature. The resultant mixture was stirred and heated to 60° C. for 16 hours. The mixture was evaporated and the residue was purified by preparative HPLC using a Waters ‘Xterra’ reversed-phase column (5 microns silica, 30 mm diameter, 150 mm length) using decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetoliitrile as eluent. There was thus obtained the title compound (0.035 g); 1H NMR: (DMSOd6) 3.76 (s, 2H), 3.92 (s, 3H), 3.95 (s, 3H), 6.47 (d, 1H), 6.93 (d, 1H), 7.23 (d, 2H), 7.4 (s, 1H), 7.46 (d, 2H), 7.49 (s, 1H), 8.49 (d, 1H), 8.80 (d, 1H), 11.33 (br s, 1H); Mass Spectrum: M+H+ 406.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.226 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-hydroxypyridine N-oxide | 0.131 g | OC1=[N+](C=CC=C1)[O-] | C5H5NO2
reactant | 2-[4-(6,7-dimethoxyquinolin-4-yloxy)phenyl]acetic acid | 0.2 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)CC(=O)O | C19H17NO5
reactant | 3-aminoisoxazole | 0.064 g | NC1=NOC=C1 | C3H4N2O
reactant | diisopropylethylamine | 0.226 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-(3-isoxazolyl)-2-[4-(6,7-dimethoxyquinolin-4-yloxy)phenyl]acetamide | 0.035 g | O1N=C(C=C1)NC(CC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)=O | C22H19N3O5
